US04959361
The title compound was obtained by coupling 4-(2-chlorophenyl)-2-iodo-9-methyl-6H-thieno-[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine with 1,2,3,4-tetrahydro-9(2-propynyl)-9H-carbazole under the conditions used in Example 37. The product was isolated by chromatography over the 50-fold amount of silica gel using 8 % (v/v) of ethanol in methylene chloride for elution. The residue obtained after evaporation of the combined clean fractions containing product was crystallized from ethanol to give colorless crystals of 4-(2-chlorophenyl)-2-[3-(1,2,3,4-tetrahydro 9H-carbazol-9-yl)-1-propynyl]-9-methyl-6H-thieno-[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine with m.p. 164°-166°. These crystals contained 0.66 molar amounts of ethanol according to analytical and spectral data.

reactant | 4-(2-chlorophenyl)-2-iodo-9-methyl-6H-thieno-[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)I)C(=NN2)C | C15H10ClIN4S
reactant | 1,2,3,4-tetrahydro-9(2-propynyl)-9H-carbazole | C(C#C)N1C2=CC=CC=C2C=2CCCCC12 | C15H15N
reactant | ethanol | C(C)O | C2H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-(2-chlorophenyl)-2-[3-(1,2,3,4-tetrahydro 9H-carbazol-9-yl)-1-propynyl]-9-methyl-6H-thieno-[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)C#CCN3C1=CC=CC=C1C=1CCCCC31)C(=NN2)C | C30H24ClN5S
